US09163011B2
b) 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carboxylic acid
To a solution of 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carbonitrile (0.202 g, 0.878 mmol) in dioxane (4 ml) was added 4N NaOH (2.2 ml, 8.8 mmol) and the resulting reaction mixture was stirred for 28 h at 85° C. The reaction mixture was diluted with water and extracted with EtOAc. The aqueous phase was acidified with 4N HCl and evaporated to dryness. The title compound was extracted with DCM/MeOH (9/1), pushed through a plug of Celite and was obtained after evaporation as a light yellow solid.

reactant | 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carbonitrile | 0.878 mmol, 0.202 g | ClC=1C(=NC=C(C1)OCC(F)F)C#N | C8H5ClF2N2O
reactant | NaOH | 8.8 mmol, 4N, 2.2 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)OCC(F)F)C(=O)O | C8H6ClF2NO3
